Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Night sweats, possible endocarditis 
 
Major Surgical or Invasive Procedure:
Transesophageal echo ___

 
History of Present Illness:
Mr. ___ is a ___ yo man with no significant PMH who presents
with night sweats and TTE findings concerning for infective
endocarditis. He was working in ___ from ___ as an
___ at ___. He reports that the construction
was in a ___ area and he was not exposed to much
construction work as his job took place in the completed areas 
of
the building. During the trip he developed a mild cough with 
rare
sputum production, but upon returning he began to have frequent
sputum production. He denies hemoptysis or pleuritic pain though
has had some mild MSK pain from cough. He also developed DOE 
even
with minimal exertion, fatigue, and night sweats through the
sheets with Tmax at home 100.1. He has not had any fevers either
at home or at doctor's offices since then. He has had weight 
loss
of 10 lbs over the past 2 weeks, though he thinks that may be
more related to his diet in ___ and states that he often has
fluctuations in weight. He reports 1 day of diarrhea which has
resolved and some post-tussive emesis, but denies significant
n/v/d or abd pain. He has had no change in urination, denies
headache/focal weakness/numbness/tingling/vision changes. He
denies orthopnea, PND, and no ___ edema since after his plane 
trip
from ___. The patient also noted L palmar hand swelling and
pain starting ___. He reports that he had no sick contacts in
___ but apparently one colleague has been sick with an 
unknown
illness since then. 

He went to his PCP who found cardiomegaly and CXR and referred
him to a cardiology. During the cardiologist's exam, a new 
murmur
was noted and he was referred for TTE, which was initially read
as showing a bicuspid AV with moderate AVR and dilated LV but 
was
reevaluated and raised concern for aortic valve vegetation. Sent
to ___ by PCP given question of thickened leaflet and 
possible
endocarditis especially in the setting of fevers, night sweats.
The patient denies any IV injection in the past and has had no
recent invasive procedures. He has no family hx of abnormal
valves. Of note, he had 1 set of BCx drawn at his PCP office in
___ which was reported as growing gram negative cocci. 

In ED, initial vitals 98.4 92 129/57 16 99% RA. On exam
well-appearing, II/VI diastolic murmur, L hand mildly/vaguely
swollen without visible lesions. Labs notable for lactate 1.1,
Chem 7/LFTs wnl, proBNP 3511, Hgb 9.5 with otherwise normal CBC.
CXR with enlarged cardiac silhouette raising the possibility of
cardiomegaly versus pericardial effusion, small bilateral 
pleural
effusions and mild edema. EKG obtained.   

ED Resident POC TTE: trivial effusion, LVEF WNL, no RWMA,
moderate AR (VC 4-5mm), MVP, non-mobile thickening of anterior
mitral leaflet (A2) concerning for possible vegetation, mild MR,
? small AV paravalvular abscess vs more likely coronary artery,
bicuspid AV without visual evidence of stenosis, diastolic MVI
c/w grade I dysfunction (unable to perform TDI on this device)

Received 1L NS, vanc/cefepime, acetaminophen, tramadol. Flu 
swabs
obtained, discussed with ID fellow. Transfer vitals 97.5 92
129/52 18 99% RA.

On arrival, patient feels well without significant complaints
aside from some pain in left palm and intermittent transient
chest pain. 
 

ROS: Patient reports rash on back that was not painful or itchy
for one day prior to his trip. ROS as per HPI, all systems
reviewed and otherwise negative.

 
Past Medical History:
None

 
Social History:
___
Family History:
Mom healthy, dad healthy, brother and sister
healthy. Maternal GF had mitral valve prolapse. A family member
on his father's side had a "murmur". No known hx of bicuspic
aortic valve.  

 
Physical Exam:
Admission Physical Exam:
VS: 98.2 143/69 100 18 97%RA 
General: Well appearing young man standing next to bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions 
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: Hyperdynamic precordium, tachycardic, regular
rhythm, S1 and S2 with mid-systolic click, II/VI holosystolic
murmur heard loudest at apex without radiation
Gastrointestinal: Soft, nontender, nondistended, +BS, no masses
or HSM
Extremities: Warm and well perfused, no peripheral edema, no
___ lesions ___ nodes 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

Discharge Exam essentially unchanged from admission physical 
exam with the except of a small area of fluctuance now noted on 
pt's L palm

 
Pertinent Results:
ADMISSION LABS:
___ 03:31PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 08:37PM   LACTATE-1.1
___ 08:26PM   GLUCOSE-98 UREA N-12 CREAT-1.0 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-22 ANION GAP-19
___ 08:26PM   estGFR-Using this
___ 08:26PM   ALT(SGPT)-32 AST(SGOT)-30 ALK PHOS-84 TOT 
BILI-1.1
___ 08:26PM   LIPASE-73*
___ 08:26PM   cTropnT-<0.01
___ 08:26PM   proBNP-3511*
___ 08:26PM   ALBUMIN-3.6
___ 08:26PM   WBC-9.8 RBC-3.34* HGB-9.5* HCT-30.6* MCV-92 
MCH-28.4 MCHC-31.0* RDW-13.3 RDWSD-44.3
___ 08:26PM   NEUTS-82.6* LYMPHS-10.3* MONOS-5.0 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-8.13* AbsLymp-1.01* AbsMono-0.49 
AbsEos-0.11 AbsBaso-0.04
___ 08:26PM   PLT COUNT-253

DISCHARGE LABS:
___ 05:22AM BLOOD WBC-8.6 RBC-3.65* Hgb-10.3* Hct-32.8* 
MCV-90 MCH-28.2 MCHC-31.4* RDW-13.4 RDWSD-43.8 Plt ___
___ 05:22AM BLOOD Glucose-88 UreaN-10 Creat-0.9 Na-138 
K-4.3 Cl-100 HCO3-28 AnGap-14
___ 08:26PM BLOOD ALT-32 AST-30 AlkPhos-84 TotBili-1.1

OSH Labs: ___
WBC 12.8 Hgb 10.5 Plt 277
PMN 88.3 Lymph 5.6% Eos 0.7% Monos 4.2% Baso 0.3%
Na 142 K 4.2 Cl 101 Bicarb 25 BUN 8 Cfr 1.0 Glu 94 
Ca 8.9
Total protein 7.2 Alb 3.7 Tbili 1.3 Dbili 0.3 ALT 37 AST 40 AP 
81

Hep A Igm Negative
HBsAg Negative, HBsAb positive 

IMAGING: 

___ CXR
IMPRESSION:  
  
Enlarged cardiac silhouette raising the possibility of
cardiomegaly versus pericardial effusion.  Small bilateral
pleural effusions and mild edema. 
  
___ Outpatient TTE ___ cardiology):
PASP 42 mmHg
Aortic root 34mm
EF 65%
LA 56mm
LVES 35mm
LVED 54mm
IVS 12mm
PW 13mm

Images were obtained in normal sinus rhythm with a rate of 
93bpm.
Normal LVEF 65%. No regional wall motion abnormalities. Normal
diastolic function. Borderline LVH. Normal RV function. AV looks
bicuspid (LCC and RCC appear to be fused), no aortic stenosis,
moderate aortic insufficiency with PHT of 290msec. NO obvious
vegetation. Anterior mitral valve prolapse, with mild-mod mitral
regurgitation and left atrial enlargement (5.6 cm). Other valves
look OK, trace TR. Mild pulmonary hypertension, PASP 42mmHg.
Normal IVC diameter, collapses with inspiration. Trace
pericardial effusion. No prior echocardiogram is available for
comparison. In the setting of unexplained low grade fevers,
subacute bacterial endocarditis of the aortic valve cannot be
exluded by this echocardiogram. 

___ TEE:
Overall left ventricular systolic function is normal (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending, transverse and descending thoracic aorta are 
normal in diameter and free of atherosclerotic plaque to 35 cm 
from the incisors. The aortic valve is bicuspid with fusion of 
the right and left coronary cusps. There is no aortic valve 
stenosis. There is a small-to-moderate-sized (0.7x0.2cm) highly 
mobile echodensity seen on the left ventricular side of the 
non-coronary cusp of the aortic valve, consistent with 
vegetation (best seen in Clips #1, 27, 28). The fused aortic 
cusp appears thickened, which may be related to valve 
destruction (vs. abnormal bicuspid valve leaflets), with lack of 
full coaptation with the non-coronary cusp (best seen in clips 
9, 10, 35). A vegetation may be present on the fused leaflet 
(suggested in clip #11) but is not well seen with certainty. No 
aortic valve abscess is seen. Moderate to severe (3+) aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is mild bileaflet 
(anterior>posterior) mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. An eccentric jet of mild 
(1+) mitral regurgitation is seen directed toward the 
inter-atrial septum. The tricuspid valve leaflets are mildly 
thickened. Tricuspid valve prolapse is present. No 
vegetation/mass is seen on the pulmonic valve. There is a 
trivial/physiologic pericardial effusion. 

MRI HAND ___:
FINDINGS: 
 
At the palmar aspect of the hand, there is a focal area of STIR 
hyperintensity
demonstrating rim enhancement on postcontrast images.  This 
process is
immediately superficial to the flexor tendons, most closely 
related to the
flexor tendons of the long and ring fingers.  The nonenhancing 
central
component measures 13 x 9 x 4 mm.  The lesion is at the level of 
the proximal
metacarpals.  Some surrounding soft tissue edema and enhancement 
is seen,
tracking about the flexor tendons, presumably reflecting 
reactive inflammatory
change, tracking around the flexor tendon sheaths.
 
There is no evidence of tendon tear.
 
Bone marrow signal intensity is normal.  No evidence of 
fracture.  No
osteomyelitis.  No bone erosion.
 
IMPRESSION: 
 
Small rim enhancing fluid collection palmar to the flexor 
tendons at proximal
metacarpal level, measuring 13 x 9 x 4 mm, likely reflecting a 
small abscess.

___ CXR (OSH)
There is strandy opacity in both lungs and slight blunting of
each lateral costophrenic angle and posterior costophrenic angle
which could represent small infiltrates or atelectasis. The 
heart
is borderline enlarged. Central pulmonary vasculature is also
prominent. 

ECG: NSR rate 98, borderline RBBB, nonspecific T wave
abnormalities in V5-6 (my read) 

Micro: 

___ Gram negative cocci cultures grown per outpatient office
reported to ED. 

___ Flu A/B negative, viral cx pending

___ x2 induced sputum: AFB negative

___  BLOOD CULTURE ___: Strep Viridans

 
Brief Hospital Course:
___ yo man with no significant PMH who presents with night sweats 
and TTE findings concerning for infective endocarditis.

# Infective Endocarditis: Pt presented with fevers, night sweats 
and had a TTE done at an OSH concerning for possible infective 
endocarditis.  ___ blood cultures on admission were positive for 
Strep Viridans.  Unclear source as pt denies recent dental work, 
no tooth pain or abscesses, and no other clear site of inoculum. 
 Pt was treated with Vanc/Cefepime->CTX once sensitivities were 
known.  TEE was obtained which showed an aortic valve 
vegetation, bicuspid aortic valves with fusion of the right and 
left coronary cusp suggestive of possible valve destruction (vs. 
abnormal bicuspid valve leaflets) and moderate-severe aortic 
regurgitation.  ID was following and recommended 4 weeks of IV 
CTX and f/u in OPAT and Cardiology clinic.  Given the abnormally 
fused aortic valve suggestive of possible destruction, 
Cardiology also recommended CT Surgery follow-up for 
consideration of surgery if needed.  Pt remained afebrile and 
HDS while inpatient.

# Tendonitis/Hand Abscess: Pt was noted to have some swelling 
and difficulty closing his L hand.  No erythema, warmth, or 
numbness/tingling.  No obvious skin breakdown or overlying 
lesions.  This was felt to possibly be seeding from possible 
bacteremia.  Swelling and hand closure progressively improved 
with IV CTX per above but pt was still noted to have small area 
of fluctuance on mid-palm so MRI hand was pursued.  This showed 
13 x 9 x 4 mm abscess on palmar surface and some surrounding 
inflammation in the flexor tendons.  He was seen by the hand 
surgery service who recommended outpatient follow-up.  Pt 
provided number for the clinic to set up appt.

Billing: Greater than 30 minutes spent on discharge counseling 
and coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 grams IV daily 
Disp #*28 Intravenous Bag Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Strep Viridans Endocarditis
L hand abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with fevers and chills.  We did some blood cultures 
and an echo which shows that you have an infection of your heart 
valve with a bacteria called strep viridans.  We treated you 
with antibiotics and your infection remained stable.  We are 
discharging you to continue IV antibiotics at home.  We also did 
an MRI of your hand which showed a small abscess and some 
inflammation of the tendon, but nothing to intervene on at this 
time.  You will also follow up with Cardiology and infectious 
disease after discharge.

Please return if you have worsening chest pain, shortness of 
breath, recurrent fevers, hand pain/numbness/swelling or if you 
have any other concerns.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___